US07504412B2
To a methanol solution (20 ml) containing 2-isopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide (280 mg), 10% palladium-on-carbon (30 mg) was added, and inside the reaction system was substituted with hydrogen, followed by an hour's stirring at room temperature. The reaction liquid was filtered through Celite™. Concentrating the filtrate under reduced pressure, crude 6-amino-2-isopropylimidazo[1,2-a]pyridine hydrobromide (250 mg) was obtained.

reactant | 2-isopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide | 280 mg | Br.C(C)(C)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 30 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 6-amino-2-isopropylimidazo[1,2-a]pyridine hydrobromide | 250 mg | Br.NC=1C=CC=2N(C1)C=C(N2)C(C)C | InChI=1S/C10H13N3.BrH/c1-7(2)9-6-13-5-8(11)3-4-10(13)12-9;/h3-7H,11H2,1-2H3;1H
